US08211919B2
To a solution of anilinoacetic acid (6.0 g) in acetone/H2O (1:1, 72 mL) were added triethylamine (18.3 mL) and di-tert-butyl dicarbonate (26.0 g) at ambient temperature and the mixture was stirred at ambient temperature overnight. Acetone was evaporated in vacuo and the residual solution was washed with diethyl ether (40 mL). The aqueous solution was acidified to pH=3 with 1N hydrochloric acid and the mixture was extracted with chloroform (70 mL×3). The combined organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography (250 g, 10% methanol in chloroform) to afford [(tert-butoxycarbonyl)(phenyl)amino]acetic acid (8.78 g) as a brown oil.

reactant | anilinoacetic acid | 6.0 g | N(C1=CC=CC=C1)CC(=O)O | C8H9NO2
reactant | triethylamine | 18.3 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 26.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetone H2O | 72 mL | CC(=O)C.O
product | [(tert-butoxycarbonyl)(phenyl)amino]acetic acid | 8.78 g | C(C)(C)(C)OC(=O)N(C1=CC=CC=C1)CC(=O)O | C13H17NO4
